US07396958B2
N-{4-chloro-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-3,4-dichlorobenzenesulfonamide
To 0.9 g of (2-amino-5-chlorophenyl)(2-chlorophenyl)methanol dissolved in 4 ml of pyridine is added 0.822 g of 3,4-dichlorobenzenesulfonyl chloride, and the mixture is left for 30 minutes at room temperature. The reaction medium is taken up in ethyl acetate and washed with water, and then with 1M hydrochloric acid solution. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with dichloromethane, to give 0.601 g of the expected product.

reactant | (2-amino-5-chlorophenyl)(2-chlorophenyl)methanol | 0.9 g | NC1=C(C=C(C=C1)Cl)C(O)C1=C(C=CC=C1)Cl | C13H11Cl2NO
reactant | 3,4-dichlorobenzenesulfonyl chloride | 0.822 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{4-chloro-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-3,4-dichlorobenzenesulfonamide | 0.601 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C(O)C1=C(C=CC=C1)Cl | C19H13Cl4NO3S
